data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21](CC(=C)C)C(C)(C)CO.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=C)C[O:21]C(C)(C)CO 10=20;20,21=21
C1CC(=O)[N:21]([C:22]1=[OH+:23])[Br:20].[Br-:10]>>C1CC(=O)[N:21]=[C:22]1[OH:23].[Br:10][Br:20] 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].CC[N-:10]CC>>[H:20][N:10](CC)CC.[OH2:21] 10=20;20,21=21
[H:20][N+:21]1=CC=CC=C1.CCCCCC1=CC(=O)C(C(=C1)O)C(C=C(C)CCC=C(C)C)[O-:10]>>[H:20][O:10]C(C=C(C)CCC=C(C)C)C1C(=CC(=CC1=O)CCCCC)O.C1=CC=[N:21]C=C1 10=20;20,21=21
CO[P:10](OC)OC.[Cl:20][Cl:21]>>CO[P+:10](OC)(OC)[Cl:20].[Cl-:21] 10=20;20,21=21
C[C+:20](C)C1CCCCC1(C)C.[Br-:10]>>CC1(CCCCC1[C:20](C)(C)[Br:10])C 10=20,
C[CH:20]=[NH2+:21].[C-:10]#N>>C[CH:20]([C:10]#N)[NH2:21] 10=20;20,21=21
[H:10][Al-:11](CC(C)C)(CC(C)C)[O+:21]=[CH:20]CCC>>[H:10][CH:20](CCC)[O:21][Al:11](CC(C)C)CC(C)C 10,11=10,20;20,21=21
[H:20][CH:21](C(C1=CC=NC=C1)C(=O)C2=CC=C(C=C2)F)[C:22](=[NH2+:23])C3CCN(CC3)C(=O)OCC4=CC=CC=C4.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C1CN(CCC1[C:22](=[CH:21]C(C2=CC=NC=C2)C(=O)C3=CC=C(C=C3)F)[NH2:23])C(=O)OCC4=CC=CC=C4.O 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].C1=CC(=CC=C1CC(=[NH:10])C2=C(C=C(C=C2O)O)O)O.CCOCC.OS(=O)(=O)[O-]>>[H:20][NH+:10]=C(CC1=CC=C(C=C1)O)C2=C(C=C(C=C2O)O)O.[OH2:21].CCOCC.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][NH3+:21].CC(=O)[O-:10].CCOC(=O)C(CC(=O)C1=CC=CC=C1)C(=O)C.CC1=CC=C(N1)C2=CC(=CC(=C2)C(=O)CCC(=O)C)C3=CC=C(N3)C.CC1=CC=C(N1)C2=CC(=CC(=C2)C(=O)CCC(=O)C)C(=O)CCC(=O)C.CC(=O)CCC(=O)C1=CC=CC=C1.CC(=O)CCC(=O)C1=CC(=CC(=C1)C(=O)CCC(=O)C)C(=O)CCC(=O)C.CC(=O)CC1C(=O)CCCC1=O.CC(=O)O.CC1(C2CC1C(C(=O)C2)CC(C(=O)C3=C(C=CC=C3)F)[N+]4=CC=CC=C4)C.COC1=CC2=C(C=C1)C=C(C=C2)C(=O)CCC(=O)C3=CC=CC=C3.C1CN(CCC1C(=O)CC(C2=CC=NC=C2)C(=O)C3=CC=C(C=C3)F)C(=O)OCC4=CC=CC=C4.C(=O)[O-].[I-]>>[H:20][O:10]C(=O)C.[NH3:21].CCOC(=O)C(CC(=O)C1=CC=CC=C1)C(=O)C.CC1=CC=C(N1)C2=CC(=CC(=C2)C(=O)CCC(=O)C)C3=CC=C(N3)C.CC1=CC=C(N1)C2=CC(=CC(=C2)C(=O)CCC(=O)C)C(=O)CCC(=O)C.CC(=O)CCC(=O)C1=CC=CC=C1.CC(=O)CCC(=O)C1=CC(=CC(=C1)C(=O)CCC(=O)C)C(=O)CCC(=O)C.CC(=O)CC1C(=O)CCCC1=O.CC(=O)O.CC1(C2CC1C(C(=O)C2)CC(C(=O)C3=C(C=CC=C3)F)[N+]4=CC=CC=C4)C.COC1=CC2=C(C=C1)C=C(C=C2)C(=O)CCC(=O)C3=CC=CC=C3.C1CN(CCC1C(=O)CC(C2=CC=NC=C2)C(=O)C3=CC=C(C=C3)F)C(=O)OCC4=CC=CC=C4.C(=O)[O-].[I-] 10=20;20,21=21
[H:20][Br:21].CCC1(OCC[O:10]1)C2=CC=CC=C2>>[H:20][O+:10]1CCOC1(CC)C2=CC=CC=C2.[Br-:21] 10=20;20,21=21
[H:20][O+:21](CCO)C1(CCN2C1=CC(=C(C2=O)C#N)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.CC1=C(C(=O)N2CCC(C2=C1)(O)[O:21]CCO)C#N 10=20;20,21=21
[H:20][CH:21]1CC2C3CC4=C5C2(CCN3)C([C:22]1=[OH+:23])OC5=C(C=C4)OC.COC1=C2C3=C(CC4C5C3(CC[NH:10]4)C(O2)C(=O)CC5)C=C1.CO.COC=[O+]C>>[H:20][NH+:10]1CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3C(=O)CC4.COC1=C2C3=C(CC4C5C3(CCN4)C(O2)[C:22](=[CH:21]C5)[OH:23])C=C1.CO.COC=[O+]C 10=20;22,23=23;20,21=21,22
C(CC[O-])C[CH:10]=[CH:11][O-:12].[Br:20][Br:21]>>C(CC[O-])C[CH:10]([CH:11]=[O:12])[Br:20].[Br-:21] 10,11=10,20;20,21=21;12=11
C[NH2+:21][C:20]([O-:10])(OC)Cl>>C[NH2:21].CO[C:20](=[O:10])Cl 10=20;20,21=21
CC(C)C[Al-:10](CC(C)C)(O)[OH+:11]C(C=CC1=CC=CC=C1)C2=CC=CC=C2.O>>CC(C)C[Al:10](CC(C)C)O.C1=CC=C(C=C1)C=CC(C2=CC=CC=C2)[OH:11].O 10,11=11
CCC(C)O[S:20]([O-:10])(Cl)[Cl:21]>>CCC(C)O[S:20](=[O:10])Cl.[Cl-:21] 10=20;20,21=21
[H:20][OH+:21]C(C)(O)[O-].[OH2:10]>>CC(O)([OH:21])[O-].[H:20][OH2+:10] 10=20;20,21=21
C[NH:10]C1=CC=CC=C1.[N:20]#[O+:21]>>C[NH+:10](C1=CC=CC=C1)[N:20]=[O:21] 10=20;20,21=21
[H:20][NH+:21](C(CC1=CC=CC=C1)C(=O)[O-])C([O-])(OCC2C3=C(C=CC=C3)C4=CC=CC=C24)ON5C(=O)CCC5=O.C(=O)([O-:10])[O-]>>[H:20][O:10]C(=O)[O-].C1CC(=O)N(C1=O)OC([NH:21]C(CC2=CC=CC=C2)C(=O)[O-])([O-])OCC3C4=C(C=CC=C4)C5=CC=CC=C35 10=20;20,21=21
[H:20][O+:21]=CO.[OH2:10]>>[H:20][OH2+:10].C(=[O:21])O 10=20;20,21=21
[H:20][CH:21]1C=C([N+:23](=[C:22]1C)C2=CC(=CC=C2)[N+](=O)[O-])C.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC1=C[CH:21]=[C:22]([N:23]1C2=CC(=CC=C2)[N+](=O)[O-])C.[H:20][OH2+:10].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
[H:20][OH:21].CC(C([CH-:10]C=O)C1=CC=CC=C1)(C(F)(F)F)N=CC2=CC=C(C=C2)[N+](=O)[O-]>>[H:20][CH:10](C=O)C(C1=CC=CC=C1)C(C)(C(F)(F)F)N=CC2=CC=C(C=C2)[N+](=O)[O-].[OH-:21] 10=20;20,21=21
[H:20][O:21]C=O.C1=CC2=C(C=C1)I(=[O:10])(OC2=O)O>>[H:20][O+:10]=I1(C2=C(C=CC=C2)C(=O)O1)O.C(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.COC1=C(C=CC(=C1)C(=O)O)[NH2:10].CO>>[H:20][NH2+:10]C1=C(C=C(C=C1)C(=O)O)OC.OS(=O)(=O)[O-:21].CO 10=20;20,21=21
C1=CC(=CC=C1[CH2:20][Br:21])C#N.C(C(F)(F)F)[NH2:10]>>C1=CC(=CC=C1[CH2:20][NH2+:10]CC(F)(F)F)C#N.[Br-:21] 10=20;20,21=21
CO[C:20](=[NH2+:21])OCC[OH:10]>>CO[C:20]1([OH+:10]CCO1)[NH2:21] 10=20;20,21=21
[CH:11]1=[CH:10]C2=CC=C(C=C2C=C1)S(=O)(=O)O.O[S+:20](=O)=O>>C1=CC2=CC(=CC=C2[CH:10]([CH+:11]1)[S:20](=O)(=O)O)S(=O)(=O)O 10,11=10,20
CC(CO)[OH:10].C1=CC(=CC=C1[CH:20]=[OH+:21])[N+](=O)[O-].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>CC(CO)[OH+:10][CH:20](C1=CC=C(C=C1)[N+](=O)[O-])[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10=20;20,21=21
[Li:20]N(C(C)C)C(C)C.CC1(CCC(=[O:10])C2C1O2)C>>[Li-:20](N(C(C)C)C(C)C)[O+:10]=C1CCC(C2C1O2)(C)C 10=20,
